US06930120B2
2-(Benzo[1,3]dioxol-5-yloxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(benzo[1,3]dioxol-5-yloxy)-3-(4-hydroxy-phenyl)-2-methyl propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the procedure of Example 78. 1H NMR (400 MHz, CDCl3) δ 7.57 (dd, 1H, J=3.90 Hz, J=1.47 Hz), 7.35 (dd, 1H, J=5.37 Hz, J=1.47 Hz), 7.13 (d, 2H, J=8.31 Hz), 7.04 (dd, 1H, J=5.37 Hz, J=3.90 Hz), 6.78 (d, 2H, J=8.79 Hz), 6.60 (d, 1H, J=8.30 Hz), 6.42 (d, 1H, J=2.44 Hz), 6.33 (dd, 1H, J=8.31 Hz, J=2.44 Hz), 5.88 (d, 2H, J=0.98 Hz), 4.15 (t, 2H, J=6.35 Hz), 3.16 (d, 1H, J=13.92 Hz), 3.04 (d, 1H, J=13.92 Hz), 2.93 (t, 2H, J=6.35 Hz), 2.31 (s, 3H), 1.30 (s, 3H); HRMS (ES+) m/z exact mass calcd for C27H26NO7S 508.1430, found 508.1425.

reactant | 2-(benzo[1,3]dioxol-5-yloxy)-3-(4-hydroxy-phenyl)-2-methyl propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC2=C(OCO2)C=C1)=O | C19H20O6
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(Benzo[1,3]dioxol-5-yloxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | O1COC2=C1C=CC(=C2)OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C | C27H25NO7S
